datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:10](=[C:11]([H:13])[H:14])[H:12],5.8576
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])[H:24])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])[C:8]1([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])[H:14])([H:12])[H:13],86.023
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])[H:13])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:13])[O:7][C:6]1([H:17])[H:18])([H:9])([H:10])[H:11].[O:8][H:19],62.688872
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](#[C:17][C:18]([H:20])[H:21])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17]#[C:16][H:19])([H:20])[H:21])[H:9])[H:8],36.1498
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](#[C:22][C:23]([H:25])[H:26])[H:24]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:23]([C:22]#[C:21][H:24])([H:25])[H:26])[H:11],36.4008
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14])[H:12])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])[C:7]1([C:8]([H:17])([H:18])[H:19])[H:16])[H:9],116.022
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28]([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39])([H:31])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:28]([C:27]([H:31])([H:32])[H:33])([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39])[H:15])([H:13])[H:14],8.91192
[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[C:9]([C:10]([O:11][O:12])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0]([C:1](=[O:2])[H:8])([H:4])([H:5])[H:6].[H:7][O:11][C:10]([C:9]([H:13])([H:14])[H:15])([H:16])[H:17].[O:3][O:12],-3.5564
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]1([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]([H:23])([H:24])[C:9]1([C:10](=[C:11]([H:27])[H:28])[H:26])[H:25])[H:12],58.827
[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:9])([H:10])[C:5]=[C:6]1[H:11])[H:7]>>[C:0](#[C:1][C:2]1=[C:3]([H:8])[C:4]([H:10])[C:5]([H:9])=[C:6]1[H:11])[H:7],109.78816
[H:0].[N:1]([N:2]([H:4])[H:5])[H:3]>>[H:0][H:4].[N:1](=[N:2][H:5])[H:3],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:29]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:18][H:29],18.706664
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11],43.5136
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20],40.8024
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25],20.5016
